US08383820B2
Lithium aluminium hydride (0.711 g, 0.018 mol) was added to a solution of (5-hydroxy-adamantan-2-yl)carbamic acid tert-butyl ester (1 g, 0.0037 mol) in THF (50 ml) at 0° C. under a nitrogen atmosphere. The slurry was heated under reflux for 5 h. It was then cooled to 0° C. and quenched with 30% NaOH solution (12 ml) and filtered. The filtrate was concentrated to give 2-methylaminoadamantan-5-ol as a white solid (0.6 g, 90%). LC-MS (m/z): 181.9 (M+1). 1HNMR (300 MHz, DMSO-d6): δ 4.3 (s, 1H), 4.2 (s, 1H), 2.4 (s, 0.7H), 2.3 (s, 0.3H), 2.2 (s, 3H), 1.8-2.0 (m, 5H), 1.5-1.6 (m, 5H), 1.4-1.5 (m, 2H), 1.2 (m, 2H).

reactant | Lithium aluminium hydride | 0.018 mol, 0.711 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (5-hydroxy-adamantan-2-yl)carbamic acid tert-butyl ester | 0.0037 mol, 1 g | C(C)(C)(C)OC(NC1C2CC3CC(CC1C3)(C2)O)=O | C15H25NO3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-methylaminoadamantan-5-ol | 0.6 g, 90% | CNC1C2CC3CC(CC1C3)(C2)O | C11H19NO
